US08314088B2
tert-butyl 3-[ethyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate
To a solution of tert-butyl 3-[(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate (137 mg) in tetrahydrofuran (3 mL) was added dropwise potassium hexamethyl disilazide (1.06 mL, 0.5 M toluene solution) at 0° C. The mixture was stirred at 0° C. for 15 min, and iodoethane (105 μL) was added dropwise thereto. The mixture was stirred at 0° C. for 1.5 hr, and further at room temperature overnight. Water (5 mL) was added, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 10→40% ethyl acetate/hexane) to give the title compound (10 mg, 7%) as a pale-yellow oil.

reactant | tert-butyl 3-[(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 137 mg | CC(C)NC1=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N=C1 | C15H24N4O3
reactant | potassium hexamethyl disilazide | 0.5 M, 1.06 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | iodoethane | 105 μL | ICC | C2H5I
reactant | Water | 5 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-[ethyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 10 mg, 7% | C(C)N(C1=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N=C1)C(C)C | C17H28N4O3
